US06627755B1
A mixture of 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde (0.170 g, 0.56 mmol) and 2-amino-6-picoline (0.050 g, 0.46 mmol), in methanol (10 mL) was refluxed overnight. The reaction was concentrated and the residue was flash chromatographed on silica gel (25 g). Elution proceeded as follows: 10% ethyl acetate/hexane (500 mL), nil; 20% ethyl acetate t hexane (300 mL), nil; (100 mL), 0.082 g of intermediate imine; (300 mL), 0.192 g of a mixture of starting material and imine. The pure imine (0.082 g 0.21 mmol) was dissolved in ethanol (10 mL) and 10% palladium on carbon (0.082 g) and formic acid (0.357 mL, 9.45 mmol) were added. The reaction was stirred at ambient temperature for 24 hours. The reaction was carefully neutralized with sodium bicarbonate and then filtered through celite. The pad was well washed with ethyl acetate. The filtrate was concentrated to afford 0.068 g (82%) of 3-(2-chloro-phenyl)-6-fluoro-2-[(6-methyl-pyridin-2-ylamino)-methyl]-3H-quinazolin-4-one as a colorless oil which had: 1H NMR δ 7.92 (dd, J=3, 8 Hz, 1H), 7.80 (dd, J=5, 9 Hz, 1H), 7.65-7.64 (m, 1H), 7.53-7.48 (m, 4H), 7.43-7.40 (m, 1H), 7.37-7.31 (m, 1H), 6.47 (d, J=7 Hz, 1H), 6.25 (d, J=8 Hz, 1H), 4.18 (dd, J=5, 18 Hz, 1H), 4.00 (dd, J=5, 18 Hz, 1H), 2.37 (s, 3H); APCI MS m/z=395 (P+1).

reactant | 3-(2-chloro-phenyl)-6-fluoro-3,4-dihydro-quinazolin-4-one-2-carboxaldehyde | 0.56 mmol, 0.170 g | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=O | C15H8ClFN2O2
reactant | 2-amino-6-picoline | 0.46 mmol, 0.050 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | formic acid | 9.45 mmol, 0.357 mL | C(=O)O | CH2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.082 g | [Pd] | Pd
product | 3-(2-chloro-phenyl)-6-fluoro-2-[(6-methyl-pyridin-2-ylamino)-methyl]-3H-quinazolin-4-one | 0.068 g, 82% | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)CNC1=NC(=CC=C1)C | C21H16ClFN4O
